US08106045B2
A solution of 4-((2S)-morpholin-2-yl)phenylamine (0.17 g, 0.95 mmol), 2-chloro-3-methyl-4-oxo-6-(pyridin-4-yl)-3,4-dihydropyrimidine (0.17 g, 0.76 mmol), and triethylamine (0.25 g, 2.85 mmol) in tetrahydrofuran (10 ml) was stirred at 95° C. for one hour. The solvent was removed in vacuo and the residue was partitioned between water and dichloromethane. The organic layer was dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/methanol=10/1) to afford 2-[(2S)-2-(4-aminophenyl)morpholin-4-yl]-3-methyl-6-(pyridin-4-yl)-pyrimidin-4(3H)-one (0.15 g, 54%) as pale yellow crystals.

reactant | 4-((2S)-morpholin-2-yl)phenylamine | 0.95 mmol, 0.17 g | N1C[C@@H](OCC1)C1=CC=C(C=C1)N | C10H14N2O
reactant | 2-chloro-3-methyl-4-oxo-6-(pyridin-4-yl)-3,4-dihydropyrimidine | 0.76 mmol, 0.17 g | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
reactant | triethylamine | 2.85 mmol, 0.25 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[(2S)-2-(4-aminophenyl)morpholin-4-yl]-3-methyl-6-(pyridin-4-yl)-pyrimidin-4(3H)-one | 0.15 g, 54% | NC1=CC=C(C=C1)[C@H]1CN(CCO1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C20H21N5O2
